US06407261B1
Preparation of 4-Hydroxy-9-methyl Carbazole
A suspension of 9-methyl-4-oxo-1,2,3,4-tetrahydrocarbazole (prepared by the methods described by Osuka, A.; Mori, Y.; Suzuki, H. Chem. Lett. 1982, 2031-2034; and Elz, S.; Heil, W. L. Biorg. Med. Chem. Lett. 1995, 5, 667). (0.20 g, 1.0 mmol) in 3 mL tetrahydrofuran was sonicated and heated to 50° C. Sodium hydride (60% dispersion in mineral oil; 0.07 g, 1.8 mmol) was added in one portion. Sonication and heating was continued for 1 hour and then methyl phenylsulfinate (0.2 g, 1.2 mmol) was added in one portion. The mixture was diluted after 3 hours with retrahydrofuran and water to give a homogenous solution. The solution was concentrated by rotary evaporation and the residue was partitioned between dichloromethane and water. The organic layer was washed with sodium bicarbonate and brine and then dried over magnesium sulfate, filtered and concentrated. The residue was Dissolved in dioxane and heated to reflux for 1 hour. The mixture was concentrated and partitioned between dichloromethane and water. The organic fraction was dried over magnesium sulfate, filtered and concentrated. The mixture was purified by silica gel chromatography (20% EtOAc, hexanes) to 0.075 g of the desired product (38%). TLC Rf=0.49 (20% ethyl acetate, hexanes); 13C NMR (CDCl3) d 151.5, 142.6, 140.1, 126.0, 124.6, 122.4, 121.5, 118.8, 110.7, 107.7, 104.6, 101.0, 28.9; mass spectrum, m/z (FD, M+1) 198.

reactant | 9-methyl-4-oxo-1,2,3,4-tetrahydrocarbazole | CN1C2=CC=CC=C2C=2C(CCCC12)=O | C13H13NO
reactant | Sodium hydride | 1.8 mmol, 0.07 g | [H-].[Na+]
reactant | methyl phenylsulfinate | 1.2 mmol, 0.2 g | C1(=CC=CC=C1)S(=O)OC | C7H8O2S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 4-Hydroxy-9-methyl Carbazole | OC1=CC=CC=2N(C3=CC=CC=C3C12)C | C13H11NO
